US07981874B2
Dimethyl malonate (4.24 g, 32.1 mmol), K3PO4 (18.57 g, 88.0 mmol), and tert-butyl-4-bromobenzoate (7.50 g, 29.2 mmol) were placed in a dry 500 mL flask under N2. Bis(tri-t-butylphosphine)palladium(0) (745 mg, 1.46 mmol) and toluene (100 mL) were added, and the slurry was degassed with N2 for 20 minutes. The reaction was subsequently stirred at 80° C. overnight. The slurry was cooled, diluted with water, and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-25% EtOAc/hexanes) afforded dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 7.96 (d, J=8.5 Hz, 2H), 7.43 (d, J=8.4 Hz, 2H), 4.68 (s, 1H), 3.73 (s, 6H), 1.56 (s, 9H). MS: cal'd 331 (MNa+), exp 331 (MNa+).

reactant | Dimethyl malonate | 32.1 mmol, 4.24 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | K3PO4 | 88.0 mmol, 18.57 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl-4-bromobenzoate | 29.2 mmol, 7.50 g | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
catalyst | Bis(tri-t-butylphosphine)palladium(0) | 1.46 mmol, 745 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C16H20O6
